US05922880
A mixture of 1.0 g of 1-(3-bromopropyloxy)-2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)benzene and 4.0 g of 2-amino-5-(trifluoromethyl)pyridine was stirred at 90° C. for 3 hours. The reaction mixture was cooled to room temperature, and subjected to silica gel chromatography, which afforded 0.14 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(3-(5-(trifluoromethyl)-2-pyridylamino)propyloxy)benzene (12% yield), nD25.0 1.5525.

reactant | 1-(3-bromopropyloxy)-2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)benzene | 1.0 g | BrCCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl | C12H11BrCl4O2
reactant | 2-amino-5-(trifluoromethyl)pyridine | 4.0 g | NC1=NC=C(C=C1)C(F)(F)F | C6H5F3N2
product | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(3-(5-(trifluoromethyl)-2-pyridylamino)propyloxy)benzene | 0.14 g, 12% yield | ClC=1C=C(C=C(C1OCCCNC1=NC=C(C=C1)C(F)(F)F)Cl)OCC=C(Cl)Cl | C18H15Cl4F3N2O2
